US04111935
Hydrazine hydrate (1.2 ml) was added to a stirred suspension of 3-(2-hydroxybenzoyl)propionic acid (3.1 g) in water (20 ml), and the mixture was heated under reflux for 3/4 hour. The mixture was diluted with an equal volume of water, allowed to cool, and filtered to give 6-(2-hydroxyphenyl)-4,5-dihydro-3(2H)pyridazinone (2.6 g) m.p. 211°-212°.

reactant | Hydrazine hydrate | 1.2 ml | O.NN
reactant | 3-(2-hydroxybenzoyl)propionic acid | 3.1 g | OC1=C(C(=O)CCC(=O)O)C=CC=C1 | C10H10O4
solvent | water | 20 ml | O | H2O
product | 6-(2-hydroxyphenyl)-4,5-dihydro-3(2H)pyridazinone | 2.6 g | OC1=C(C=CC=C1)C=1CCC(NN1)=O | C10H10N2O2
